US06399773B1
N-[3-Methoxy-4-(5-oxazolyl)phenyl]-5-phenyl-1H-imidazol-2-amine
The product of Example 243, Part A, 4-Oxazol-5-yl-3-methoxyphenylguanidine, 243A (150 mg, 0.65 mmol) and phenacylbromide (128 mg, 0.65 mmol) were dissolved in N,N-dimethylformamide (0.25 mL) and stirred at room temperature for 3 days. The reaction mixture was evaporated and purified by prep RPHPLC to yield 5 mg (2%, a significant portion of the product was spilled during isolation) of the title compound. LCMS conditions J, retention time=1.62 min, (90%), M+H+=333.17. (100%).

reactant | 4-Oxazol-5-yl-3-methoxyphenylguanidine | O1C=NC=C1C1=C(C=C(C=C1)NC(=N)N)OC | C11H12N4O2
reactant | phenacylbromide | 0.65 mmol, 128 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | N,N-dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
product | N-[3-Methoxy-4-(5-oxazolyl)phenyl]-5-phenyl-1H-imidazol-2-amine | COC=1C=C(C=CC1C1=CN=CO1)NC=1NC(=CN1)C1=CC=CC=C1 | C19H16N4O2
